### PR TITLE
[Merged by Bors] - feat(SetTheory): generalize Schroeder-Bernstein theorem

### PR DESCRIPTION
**Pull request by vlad902**
In a proof of the infinite-version of the graph theoretic statement of Hall's Marriage Theorem, I needed a slight generalization of the Schroeder-Bernstein theorem. In particular, I wanted the bijection to also satisfy a pointwise property that the individual injections satisfy.

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean [hunk 1]
```diff
@@ -39,13 +39,16 @@ section antisymm
 variable {α : Type u} {β : Type v}
 
 /-- **The Schröder-Bernstein Theorem**:
-Given injections `α → β` and `β → α`, we can get a bijection `α → β`. -/
-theorem schroeder_bernstein {f : α → β} {g : β → α} (hf : Function.Injective f)
-    (hg : Function.Injective g) : ∃ h : α → β, Bijective h := by
+Given injections `α → β` and `β → α` that satisfy a pointwise property `R`, we can get a bijection
+`α → β` that satisfies that same pointwise property. -/
+theorem schroeder_bernstein' {f : α → β} {g : β → α} (hf : Function.Injective f)
```
Comment (vlad902) [inline Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: I admittedly do not love this naming. `schoreder_bernstein_pointwise`?

Comment (grunweg) [reply Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: Sounds better... but I'm also not sure what a good name is. Ask the hive mind, i.e. on zulip?

**Review by grunweg — APPROVED** [review]
Looks straightforward, thanks! (I didn't review very carefully, and will be on holiday tomorrow. So you may need to find another reviewer, or wait for a week.)

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean [hunk 2]
```diff
@@ -68,7 +71,22 @@ theorem schroeder_bernstein {f : α → β} {g : β → α} (hf : Function.Injec
       obtain ⟨y', hy', rfl⟩ : y ∈ g '' (f '' s)ᶜ := by rwa [hns]
       rw [g'g _] at hxy
       exact hy' ⟨x, hx, hxy⟩
-  exact ⟨h, ‹Injective h›, ‹Surjective h›⟩
+  refine ⟨h, ⟨‹Injective h›, ‹Surjective h›⟩, fun a ↦ ?_⟩
+  simp only [h, Set.piecewise, g']
+  split
+  · exact hp₁ a
+  · have : a = g (invFun g a) := by
```
Comment (adomani) [inline Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]:
```suggestion
  · have : g (invFun g a) =a := by
```
If you set yourself up here...

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean [hunk 3]
```diff
@@ -68,7 +71,22 @@ theorem schroeder_bernstein {f : α → β} {g : β → α} (hf : Function.Injec
...
+      have : a ∈ g '' (f '' s)ᶜ := by grind
+      obtain ⟨x, _, hx⟩ := mem_image _ _ _ |>.mp this
+      exact Function.invFun_eq ⟨x, hx⟩ |>.symm
```
Comment (adomani) [inline Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]:
```suggestion
      exact Function.invFun_eq ⟨x, hx⟩
```
... then here you do not need to reverse the equality!

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: Maybe `schroeder_bernstein_of_rel`?  I am not too sold on `rel`, but highlighting the extra hypothesis with `of` seems appropriate.

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean (hunk 3 above)
Comment (vlad902) [reply Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: Thanks!

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean (hunk 1 above)
Comment (vlad902) [reply Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: `of_rel` is good, I could state the hypothesis as an actual `Rel \a \b` but that would require more imports, not sure if it's worth it or not.

Comment (adomani) [reply Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: If this is good enough for your application, I would leave it as is.

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean [hunk 4]
```diff
@@ -68,7 +71,22 @@ theorem schroeder_bernstein {f : α → β} {g : β → α} (hf : Function.Injec
       obtain ⟨y', hy', rfl⟩ : y ∈ g '' (f '' s)ᶜ := by rwa [hns]
       rw [g'g _] at hxy
       exact hy' ⟨x, hx, hxy⟩
-  exact ⟨h, ‹Injective h›, ‹Surjective h›⟩
+  refine ⟨h, ⟨‹Injective h›, ‹Surjective h›⟩, fun a ↦ ?_⟩
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/SchroederBernstein.lean:74]: Why not give names to these hypotheses?

File: Mathlib/SetTheory/Cardinal/SchroederBernstein.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/SchroederBernstein.lean]: I preferred `schoreder_bernstein_pointwise`. The suffix `of_rel` doesn't really convey anything to me.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
